US07598383B2
Step A: Preparation of 4-hydroxy-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester:
A mixture of 2-methyl-3-oxo-pentanedioic acid diethyl ester (10.0 g, 46.3 mmol), 1,1-diethoxy-ethene (12.8 mL, 92.5 mmol) and sodium methoxide (0.026 mg, 0.481 mmol) was heated to 85° C. for nine hours. The reaction mixture was cooled to room temperature and concentrated. To the resulting residue was added methylamine (1.91 mL, 55.5 mmol, 40% H2O). After stirring at room temperature for 16 hours, the reaction mixture was diluted with diethyl ether and washed with water. The aqueous phase was acidified to pH 1 with 10% HCl solution and extracted with EtOAc. The organic layer was dried (MgSO4) and concentrated. Trituration of the resulting residue with diethyl ether and flash column chromatography (3% MeOH in methylene chloride) gave 3.55 g (34%) desired product.

reactant | 2-methyl-3-oxo-pentanedioic acid diethyl ester | 46.3 mmol, 10.0 g | C(C)OC(C(C(CC(=O)OCC)=O)C)=O | C10H16O5
reactant | 1,1-diethoxy-ethene | 92.5 mmol, 12.8 mL | C(C)OC(=C)OCC | C6H12O2
reactant | methylamine | 55.5 mmol, 1.91 mL | CN | CH5N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | sodium methoxide | 0.481 mmol, 0.026 mg | C[O-].[Na+]
product | 4-hydroxy-1,2,5-trimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 3.55 g, 34% | C(C)OC(=O)C1=C(N(C(C(=C1O)C)=O)C)C | C11H15NO4
